US06930104B2
1-(3,4-Dimethoxybenzoyl)-1,2,3,4-tetrahydro-4-quinolinol (400 mg, 1.28 mmol) prepared in Reference Example 2 was dissolved in chloroform (10 ml), to which iodotrimethylsilane (638 mg, 3.19 mmol) was then added on ice and stirred for 2 hours. After the reaction mixture was concentrated, the residue was dissolved in THF (10 ml) and mixed with 1,2,3,4-tetrahydroquinoline (511 mg, 3.84 mmol) and barium carbonate (505 mg, 2.56 mmol), followed by stirring at room temperature for 48 hours. After the reaction mixture was filtered to remove insoluble products and concentrated, the residue was applied to silica gel column chromatography (developing solvent: ethyl acetate/hexane=1/3) and the resulting eluate was recrystallized from diethyl ether-hexane to give the product of interest, i.e., 4-(tetrahydroquinolin-1-yl)-1-(3,4-dimethoxybenzoyl)-1,2,3,4-tetrahydro-quinoline (202 mg, yield: 37%) as a white crystal.

reactant | 1-(3,4-Dimethoxybenzoyl)-1,2,3,4-tetrahydro-4-quinolinol | 1.28 mmol, 400 mg | COC=1C=C(C(=O)N2CCC(C3=CC=CC=C23)O)C=CC1OC | C18H19NO4
reactant | iodotrimethylsilane | 3.19 mmol, 638 mg | I[Si](C)(C)C | C3H9ISi
reactant | 1,2,3,4-tetrahydroquinoline | 3.84 mmol, 511 mg | N1CCCC2=CC=CC=C12 | C9H11N
reactant | barium carbonate | 2.56 mmol, 505 mg | C([O-])([O-])=O.[Ba+2]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(tetrahydroquinolin-1-yl)-1-(3,4-dimethoxybenzoyl)-1,2,3,4-tetrahydro-quinoline | 202 mg, yield: 37% | N1(CCCC2CC=CC=C12)C1CCN(C2=CC=CC=C12)C(C1=CC(=C(C=C1)OC)OC)=O | C27H30N2O3
